US06017919
LAH (1.04 g, 0.0273 mol, 3.0 eq) was dissolved in THF (25 ml), and to this solution was added dropwise a THF solution (25 ml) of (2-benzyloxyphenyl)-acetonitrile (2.04 g, 0.0091 mol, 1.0 eq) under ice-cooling. After the completion of the dropwise addition, the mixture was stirred at room temperature for 15 minutes and refluxed under heating for 2 hours. This reaction mixture was cooled with ice-cold water, and a saturated aqueous sodium sulfate solution (about 30-40 ml) was added. After filtration through Celite, the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography (chloroforn/methanol=5/1) to give 2-(2-benzyloxyphenyl)ethylamine (0.415 g, 20.0%) as a pale-yellow amorphous compound.

reactant | LAH | 0.0273 mol, 1.04 g, 3.0 eq | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (2-benzyloxyphenyl)-acetonitrile | 0.0091 mol, 2.04 g, 1.0 eq | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CC#N | C15H13NO
reactant | sodium sulfate | about 30-40 ml | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2-(2-benzyloxyphenyl)ethylamine | 0.415 g, 20.0% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCN | C15H17NO
